US07727988B2
5-(2-chloro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride (E60)
5-(2-chloro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione was dissolved in dioxane (1 ml) and treated with 4N HCl in dioxane solution (78 μl 0.31 mmol), to give 86 mg of the title compound as a off-white powder (98% yield).

reactant | 5-(2-chloro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione | ClC1=NC=CC=C1C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | C24H22ClF3N4O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | 1 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 0.31 mmol, 78 μl | O1CCOCC1 | C4H8O2
product | 5-(2-chloro-3-pyridinyl)-1-(3-{(1S,5R)-1-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-2,4(1H,3H)-pyrimidinedione dihydrochloride | 86 mg, 98% yield | Cl.Cl.ClC1=NC=CC=C1C=1C(NC(N(C1)CCCN1C[C@]2(C[C@H]2C1)C1=CC=C(C=C1)C(F)(F)F)=O)=O | InChI=1S/C24H22ClF3N4O2.2ClH/c25-20-18(3-1-8-29-20)19-13-32(22(34)30-21(19)33)10-2-9-31-12-17-11-23(17,14-31)15-4-6-16(7-5-15)24(26,27)28;;/h1,3-8,13,17H,2,9-12,14H2,(H,30,33,34);2*1H/t17-,23+;;/m0../s1
